# DC extraction bench
.include ./top.cir

Vgate gate 0 1.8
Vdrain drain 0 1.8
Xdut gate drain 0 top

.save i(vdrain)
.save @m.xdut.Xnmos_80_0.x0.msky130_fd_pr__nfet_01v8[gm]

.control
dc Vgate 0 1.8 0.01
let gm = @m.xdut.Xnmos_80_0.x0.msky130_fd_pr__nfet_01v8[gm]
let d = -i(vdrain)
set filetype = ASCII
write /mnt/c/Users/JoPo/PycharmProjects/hades/workdir/bench.raw d gm
.endc
